US07335658B2
6-[4-(2,4-DICHLOROBENZYL)-PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 11, making variations only as required to use 2,4-dichlorobenzyl chloride in place of 2-trifluoromethylbenzyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a light yellow solid (75% yield). 1H NMR (300 MHz, CDCl3) δ 7.95-8.02, 7.44, 7.38, 7.23, 6.93, 3.70-3.77, 3.60-3.63, 3.54, 2.60-2.65, 1.50, 0.74, 0.45, 0.08. MS (ES+) m/z 434 (M+1).

reactant | 2,4-dichlorobenzyl chloride | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2,4-DICHLOROBENZYL)-PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)CC1=C(C=C(C=C1)Cl)Cl | C21H25Cl2N5O
